US09056874B2
(±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
To a mixture of (±)-2-(2,2,2-trifluoro-1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile and (±)-2-(2,2,2-trifluoro-1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile (246 mg, 0.351 mmol) was added HCl (1.25M in MeOH, 2.8 mL, 3.51 mmol) and the mixture was stirred at 60° C. After 30 minutes the reaction was cooled to room temperature, concentrated and basified with aq. NH4OH. The mixture was further diluted with MeOH. The resulting residue was purified directly by flash chromatography (0-80% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 571.1 (M+H).

reactant | (±)-2-(2,2,2-trifluoro-1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CN(C2=C(C=C1SC)C)S(=O)(=O)C1=CC=C(C)C=C1)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C#N)(F)F | C33H35F3N4O4S2Si
reactant | (±)-2-(2,2,2-trifluoro-1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | 0.351 mmol, 246 mg | FC(C(C1=C2C=CN(C2=C(C=C1SC)C)S(=O)(=O)C1=CC=C(C)C=C1)(O)C1=NC2=C(N1COCC[Si](C)(C)C)C=C(C=C2)C#N)(F)F | C33H35F3N4O4S2Si
reactant | HCl | 3.51 mmol, 1.25M, 2.8 mL | Cl | ClH
product | (±)-2-(2,2,2-Trifluoro-1-hydroxy-1-(7-methyl-5-(methylthio)-1-tosyl-1H-indol-4-yl)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | FC(C(C1=C2C=CN(C2=C(C=C1SC)C)S(=O)(=O)C1=CC=C(C)C=C1)(O)C1=NC2=C(N1)C=CC(=C2)C#N)(F)F | C27H21F3N4O3S2
